US04218455
4-[(4-Fluorophenyl)thio]pyridine hydrochloride.
To 50.0 g of 4-fluorobenzenethiol cooled in an ice bath at 0° was slowly added 44.3 g of 4-chloropyridine. After several minutes, a vigorous reaction ensued with the formation of a white solid. The product was washed with ether and dried to yield 87.2 g (92.8%) of white powder, m.p. 217°-220°. Recrystallization from isopropanol gave white needles, m.p. 224°-226°.

reactant | 4-fluorobenzenethiol | 50.0 g | FC1=CC=C(C=C1)S | C6H5FS
reactant | 4-chloropyridine | 44.3 g | ClC1=CC=NC=C1 | C5H4ClN
product | 4-[(4-Fluorophenyl)thio]pyridine hydrochloride | 87.2 g, 92.8% | Cl.FC1=CC=C(C=C1)SC1=CC=NC=C1 | InChI=1S/C11H8FNS.ClH/c12-9-1-3-10(4-2-9)14-11-5-7-13-8-6-11;/h1-8H;1H
